US05105017
5-[4-(4-Acetyl-3-hydroxy-2-propylbenzylsulfinylmethyl)phenyl]-tetrazole
A solution of 3.8 g. of 5-[4-(4-acetyl-3-hydroxy-2-propylbenzylthiomethyl)phenyl]-tetrazole in 1.5 ml. of 30% hydrogen peroxide, 100 ml. of acetic acid, and 50 ml. of methylene chloride was stirred for 24 hours at room temperature. The solution was evaporated in vacuo and the residue was dissolved in hot isopropyl alcohol. Water was added and the resulting precipitate was recovered by filtration. Recrystallization from isopropyl alcohol gave 0.8 g. of the title sulfoxide, m.p. 112°-116° C. NMR, IR.

reactant | 5-[4-(4-acetyl-3-hydroxy-2-propylbenzylthiomethyl)phenyl]-tetrazole | C(C)(=O)C1=C(C(=C(CSCC2=CC=C(C=C2)C2=NN=NN2)C=C1)CCC)O | C20H22N4O2S
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[4-(4-Acetyl-3-hydroxy-2-propylbenzylsulfinylmethyl)phenyl]-tetrazole | C(C)(=O)C1=C(C(=C(CS(=O)CC2=CC=C(C=C2)C2=NN=NN2)C=C1)CCC)O | C20H22N4O3S
